US06969713B2
i) (S)-2-(3-Methylpiperazin-1-yl)-N-(quinolin-5-yl)acetamide
to The subtitle compound was prepared from 2-chloro-N-(quinolin-5-yl)acetamide (1 g) (J Indian Chem Soc, 1940, 17, 619-621) and (S)-2-methylpiperazine (0.5 g) by the method of Example 58 step (i) as a white solid. Yield: 1.4 g

reactant | 2-chloro-N-(quinolin-5-yl)acetamide | 1 g | ClCC(=O)NC1=C2C=CC=NC2=CC=C1 | C11H9ClN2O
reactant | (S)-2-methylpiperazine | 0.5 g | C[C@@H]1NCCNC1 | C5H12N2
product | (S)-2-(3-Methylpiperazin-1-yl)-N-(quinolin-5-yl)acetamide | C[C@H]1CN(CCN1)CC(=O)NC1=C2C=CC=NC2=CC=C1 | C16H20N4O
